US06720320B2
2-(1-methylethyloxy)-5-(4-(methoxymethyloxy)benzo(b)furan-2-yl)-1,3,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 117 using sodium hydride (0.28 g), 5-(4-(methoxymethyloxy)benzo(b)furan-2-yl)-2,3-dihydro-1,3,4-oxadiazol-2-one (1.5 g) and 2-iodopropane (1.1 g), the title compound (1.5 g) was obtained as brown crystals.

reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | 5-(4-(methoxymethyloxy)benzo(b)furan-2-yl)-2,3-dihydro-1,3,4-oxadiazol-2-one | 1.5 g | COCOC1=CC=CC=2OC(=CC21)C2=NNC(O2)=O | C12H10N2O5
reactant | 2-iodopropane | 1.1 g | IC(C)C | C3H7I
product | 2-(1-methylethyloxy)-5-(4-(methoxymethyloxy)benzo(b)furan-2-yl)-1,3,4-oxadiazole | 1.5 g | CC(C)OC=1OC(=NN1)C1=CC2=C(O1)C=CC=C2OCOC | C15H16N2O5
